US06359134B1
To a solution of 1-tert-butoxycarbonyl-4-(3,4-methylenedioxybenzenesulfonyl)piperazine (0.5g) in ethyl acetate (2 ml) was added 4 N HCl in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 30 minutes. The precipitated crystals were filtered to give 3,4-methylenedioxybenzenesulfonylpiperazine hydrochloride (0.39g). To a solution of the crystals (100 mg) in dichloromethane (3 ml) were added triethylamine (0.05 ml), 4-methyl-2-(4-pyridyl)thiazole-5-carboxylic acid (74 mg) and WSC (70 mg), and the mixture was stirred at room temperature for 2 hours and concentrated. To the residue was added water, and the solution was extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and concentrated to give the title compound as crystals (90 mg). The crystals were filtered and washed with ether. NMR (CDCl3): 2.48(3H, s), 3.07(4H, m), 3.75(4H, m), 6.12(2H, s), 6.93(1H, d, J=8.2 Hz), 7.17(2H, s), 7.31(1H, d, J=8.2 Hz), 7.74(2H, d, J=6.2 Hz), 8.71(2H, d, J=6.2 Hz). IR(KBr):1626, 1479, 1427, 1342, 1250 cm1.

reactant | 1-tert-butoxycarbonyl-4-(3,4-methylenedioxybenzenesulfonyl)piperazine | 0.5g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=C(C=C1)OCO2 | C16H22N2O6S
reactant | HCl | 4 N | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-methylenedioxybenzenesulfonylpiperazine hydrochloride | 0.39g | Cl.C1OC=2C=C(C=CC2O1)S(=O)(=O)N1CCNCC1 | InChI=1S/C11H14N2O4S.ClH/c14-18(15,13-5-3-12-4-6-13)9-1-2-10-11(7-9)17-8-16-10;/h1-2,7,12H,3-6,8H2;1H
